US08975264B2
Step 1: Preparation 3-(4-methoxyphenyl)-7-phenyl-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 23)
3-Methyl-4-(4-methoxyphenyl)-1H-pyrazol-5-amine (200 mg) and ethyl 3-phenyl-3-oxopropanoate (227 mg) are stirred overnight in a pyridine (10 mL) solvent at 95° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and 270 mg of the target compound is yielded by column chromatography.

reactant | 3-Methyl-4-(4-methoxyphenyl)-1H-pyrazol-5-amine | 200 mg | CC1=NNC(=C1C1=CC=C(C=C1)OC)N | C11H13N3O
reactant | ethyl 3-phenyl-3-oxopropanoate | 227 mg | C1(=CC=CC=C1)C(CC(=O)OCC)=O | C11H12O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-methoxyphenyl)-7-phenyl-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 270 mg | COC1=CC=C(C=C1)C=1C(=NN2C1NC(C=C2C2=CC=CC=C2)=O)C | C20H17N3O2
